US05626791
5-(2-Octyl-benzo[1,3]dioxol-5-yl)-2-octyloxypyridine
5 mmol of 2-octyl-benzo[1,3]dioxole-5-boronic acid and 5 mmol of 5-bromo-2-octyloxypyridine are introduced into a mixture of 30 ml of toluene, 15 ml of ethanol and 15 ml of water. 0.05 mmol of tetrakis(triphenylphosphine)palladium(O) and 12 mmol of sodium carbonate are added, and the mixture is refluxed for 6 hours. The phases are separated, the aqueous phase is extracted with tert-butyl methyl ether, and the combined organic phases are dried by means of Na2SO4. For further purification, the substance is chromatographed on silica gel.

reactant | 2-octyl-benzo[1,3]dioxole-5-boronic acid | 5 mmol | C(CCCCCCC)C1OC2=C(O1)C=CC(=C2)B(O)O | C15H23BO4
reactant | 5-bromo-2-octyloxypyridine | 5 mmol | BrC=1C=CC(=NC1)OCCCCCCCC | C13H20BrNO
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 12 mmol | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.05 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | water | 15 ml | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 5-(2-Octyl-benzo[1,3]dioxol-5-yl)-2-octyloxypyridine | C(CCCCCCC)C1OC2=C(O1)C=CC(=C2)C=2C=CC(=NC2)OCCCCCCCC | C28H41NO3
